### ISSUE TITLE
simproc についてのブログ記事第三弾：simproc 自作のイントロダクション

### ISSUE THREAD

**Issue by Seasawher** [lean-ja/lean-by-example#1834]
https://github.com/leanprover-community/blog/pull/100

**Comment by Seasawher** [comment]
Lean v4.6.0 (back in February 2024!) added support for custom simplification procedures, aka *simprocs*.
This blog post is the first in a series of two aimed at explaining what a simproc is, what kind of problems can be solved with simprocs, and what tools we have to write them.



This post describes purely informally what simprocs are and do.
The second post will be a walkthrough to writing a simple simproc in three different ways.

To understand what a simproc is and how it works, we will first explain how `simp` works.
Then we will give some examples and non-examples of simprocs.

# How `simp` works

`simp` is made of two components.

The first component is **rewriting rules**.
A rewriting rule has a *left hand side* (either an expression or an expression pattern), which `simp` will use to decide when to use the rewriting rule, and a *right hand side*, which will be computed from the left hand side and must be equal to it as a mathematical object.
Most rewriting rules are lemmas tagged with `@[simp]` that are of the form `LHS = RHS` or `LHS ↔ RHS` (lemmas that prove `P` which is not of the form `_ = _` or `_ ↔ _` are turned into `P = True`), but we will soon see less straightforward examples.

The second one is the **`simp` tactic**, which we will refer to simply as `simp`.
When run on a goal `⊢ e`, `simp` iteratively looks for a subexpression of `e` that matches the left hand side of some rewriting rule, and replaces that subexpression with the right hand side of that rule.

For example, here's the proof steps `simp` follows to close the goal `37 * (Nat.fib 0 + 0) = 0`
```lean
⊢ 37 * (Nat.fib 0 + 0) = 0
⊢ 37 * (0 + 0) = 0
⊢ 37 * 0 = 0
⊢ 0 = 0
⊢ True
```

> The order in which `simp` traverses an expression is relatively intricate.
> As a simple approximation, simplification is performed from the inside-out.
> See the next blog post for more details on the algorithm.
> If you write `set_option trace.Meta.Tactic.simp true in example : MyGoal := by simp`, you will see the list of simplification steps `simp` performs on `MyGoal`.
# What is a simproc?

In the previous section, we explained how `simp` uses rewriting rules of the form `LHS = RHS` or `LHS ↔ RHS` to simplify expressions.
Let's now talk about the rewriting rules that are *not* of this form, aka simprocs.

A **simproc** is a rewriting rule which, given an expression `LHS` matching its left hand side, computes a simpler expression `RHS` and constructs a proof of `LHS = RHS` on the fly.

The concept of a simproc is genuinely more powerful than that of a simp lemma.
Indeed, we will soon see an example of a simproc taking the place of infinitely many simp lemmas.

# Examples of simprocs

In this section, we exemplify four simprocs that cover the following use cases:
* Avoiding combinatorial explosion of lemmas
* Computation
* Performance optimisation

## Avoiding combinatorial explosion of lemmas: The `existsAndEq` simproc

The [`existsAndEq`](https://leanprover-community.github.io/mathlib4_docs/find/?pattern=existsAndEq#doc) simproc is designed to simplify expressions of the form `∃ x, ... ∧ x = a ∧ ...` where `a` is some quantity independent of `x` by removing the existential quantifier and replacing all occurences of `x` by `a`.

```lean
example (p : Nat → Prop) : ∃ x : Nat, p x ∧ x = 5 := by
  simp only [existsAndEq]
  -- Remaining goal: `⊢ p 5`
example (p q : Nat → Prop) : ∃ x : Nat, p x ∧ x = 5 ∧ q x := by
  simp only [existsAndEq]
  -- Remaining goal: `⊢ p 5 ∧ q 5`
```

To give `simp` this functionality without a simproc, one would have to write infinitely many simp lemmas.
Indeed, the equality `x = a` could be hidden arbitrarily deep inside the `∧`.

> Technically, one *could* implement this functionality using finitely many lemmas:
> `and_assoc` to left-associate all the `∧`, `and_left_comm (b := _ = _)` to move the `=` left-ward, `exists_eq_left` to eliminate the `=` when it reaches the `∃`.
> This is not useful in practice since it could possibly loop (e.g. if there are two `=`, they could be commuted forever) and modifies the expression in unwanted ways, such as reassociating all the `∧`, even those outside an `∃`.
When presented with a left hand side of the form `∃ x, P x`, where `P x` is of the form `_ ∧ ... ∧ _`, `existsAndEq` does the following:
- Recursively traverse `P x` inside the existential quantifier looking for an equality `x = a` for some `a`.
- If an equality is found, construct a proof that `∀ x, p x → x = a`.
- Return the right hand side `P a` together with the proof obtained from the following lemma:
  ```lean
  lemma exists_of_imp_eq {α : Sort u} {p : α → Prop} (a : α) (h : ∀ x, p x → x = a) :
      (∃ x, p x) = p a
  ```

## Computation

Computations are an integral part of theorem proving, and as such there are many ways to perform them.
For example, you will find that the `decide` tactic closes most of the examples in this subsection.
There are a few reasons why simprocs are interesting for computation regardless:
* **`decide` relies on decidability instances**.
  Not everything one may want to compute is decidable, and not every decidability instance is efficient.
  In fact, most `Decidable` instances in Lean and Mathlib are very generic, and therefore unspecific and inefficient.
  Using a simproc gives the opportunity to use a domain-specific algorithm, which is more likely to be efficient and does not rely on the decidability machinery.
* **`decide` cannot compute the right hand side**, given the left hand side only.
  `decide` only works on goals that do not contain any metavariables or free variables.
  This rules out using `decide` to find out what a left hand side is equal to.
  One would need to write down the right hand side we are looking for in order for `decide` to show that it's equal to the left hand side.
  In particular, using a simproc means we can perform a computation and then continue to simplify the resulting expression *within* a single `simp` call.

### The `Nat.reduceDvd` simproc

The [`Nat.reduceDvd`](https://leanprover-community.github.io/mathlib4_docs/find/?pattern=Nat.reduceDvd#doc) simproc is designed to take expressions of the form `a | b` where `a, b` are numerals (i.e. actual numbers, like `0, 1, 37`, as opposed to variables or expressions thereof), and simplify them to `True` or `False`.

```lean
example : 3 ∣ 9 := by
  simp only [Nat.reduceDvd]
-- `decide` cannot close this goal.
example (f : Prop → Prop) : f (2 ∣ 4) = f True := by
  simp only [Nat.reduceDvd]
example : ¬ 2 ∣ 49 := by
  simp only [Nat.reduceDvd]
  -- Remaining goal: `¬ False`
  simp
example (a b : Nat) : a ∣ a * b := by
  simp only [Nat.reduceDvd] --fails
```

To reiterate one of the points made earlier, this simproc is useful despite doing something that `decide` can already do, as it allows the `simp` tactic to get rid of certain expressions of the form `a ∣ b`, *and then* simplify the resulting goal (or hypothesis) further.

When presented with a left hand side of the form `a ∣ b` where `a` and `b` are natural numbers, `Nat.reduceDvd` does the following:
- Check that `a` and `b` are numerals.
- Compute `b % a`.
- If `b % a` is zero, then return the right hand side `True` together with the proof `Nat.dvd_eq_true_of_mod_eq_zero a b rfl` that `(b % a = 0) = True`.
- If `b % a` isn't zero, then return the right hand side `False` together with the proof `Nat.dvd_eq_false_of_mod_ne_zero a b rfl` that `(b % a = 0) = False`.

### The `Finset.Icc_ofNat_ofNat` simproc

If `a` and `b` are in a (locally finite) partial order (if you don't know what this means, you can safely ignore these terms and think of the natural numbers instead), then `Finset.Icc a b` for `a` and `b` is the finite set of elements lying between `a` and `b`.

The `Finset.Icc_ofNat_ofNat` simproc is designed to take expressions of the form [`Finset.Icc a b`](https://leanprover-community.github.io/mathlib4_docs/find/?pattern=Finset.Icc#doc) where `a` and `b` are numerals, and simplify them to an explicit set.

```lean
example : Finset.Icc 1 0 = ∅ := by
  simp only [Icc_ofNat_ofNat]
example : Finset.Icc 1 1 = {1} := by
  simp only [Icc_ofNat_ofNat]
example : Finset.Icc 1 4 = {1, 2, 3, 4} := by
  simp only [Icc_ofNat_ofNat]
example (a : Nat) : Finset.Icc a (a + 2) = {a, a + 1, a + 2} := by
  -- fails: the bounds of the interval aren't numerals!
  simp only [Icc_ofNat_ofNat]
```

When presented with a left hand side of the form `Finset.Icc a b` where `a` and `b` are natural numbers, `Finset.Icc_ofNat_ofNat` does the following:
* Check that `a` and `b` are numerals.
* compute the expression `{a, ..., b}` recursively on `b`, along with the proof that it equals `Finset.Icc a b`.

## Performance optimisation: The `reduceIte` simproc

The [`reduceIte`](https://leanprover-community.github.io/mathlib4_docs/find/?pattern=reduceIte#doc) simproc is designed to take expressions of the form `if P then a else b` (aka `ite P a b`) and replace them with `a` or `b`, depending on whether `P` simplifies to `True` or `False`.

This can be achieved with simp lemmas too, but it would be less efficient:
When encountering `ite P a b`, simp lemmas would first simplify `b`, then `a`, then `P`, and finally `ite P a b`.
Assuming `P` was simplified to `True`, `ite P a b` would be simplified to `a` and all the work spent on simplifying `b` would be lost.
If `P` was simplified to `False`, then the work spent on simplifying `a` would be lost instead.

The point of `reduceIte` is that it can be made to simplify `P`, then `ite P a b`, *without simplifying `a` and `b` first*.
For this to happen, one needs to call `reduceIte` as a **preprocedure**, which is done by adding `↓` in front of its name, i.e. `simp only [↓reduceIte]`.

> Recall that, as a simple approximation, simplification is performed from the inside-out.
> What we just explained is a concrete example of simplification happening from the outside-in.
Let's see a few examples:

```lean
example : (if 37 * 0 = 0 then 1 else 2) = 1 := by
  -- Works since `simp` can simplify `37 * 0 = 0` to `True`
  -- because it knows the lemma `mul_zero a : a * 0 = 0`.
  simp only [↓reduceIte]
example (P : Prop) (a b : Nat) : (if P ∨ ¬ P then a else b) = a := by
  -- Works since `simp` can simplify `P ∨ ¬ P` to `True`.
  simp only [↓reduceIte]
open scoped Classical in -- Can be removed once Kevin Buzzard is done with the FLT project ;)
example : (if FermatLastTheorem then 1 else 2) = 1 := by
  --This fails because `simp` can't simplify `FermatLastTheorem` to `True` or `False`
  simp only [↓reduceIte]
  -- Remaining goal: `⊢ (if FermatLastTheorem then 1 else 2) = 1`
  sorry -- See https://imperialcollegelondon.github.io/FLT for how to solve this `sorry` ;)
```

When presented with a left hand side of the form `ite P a b`, `reduceIte` does the following:
- Call `simp` on `P` to get a simplified expression `P'` and a proof `h` that `P = P'`.
- If `P'` is `True` then return the right hand side `a` together with the proof `ite_cond_eq_true r` that `ite P a b = a`.
- If `P'` is `False` then return the right hand side `b` together with the proof `ite_cond_eq_false r` that `ite P a b = b`.

## Many more applications!

In the second blog post, we will see how to build step by step a simproc for computing a variant of [`List.range`](https://leanprover-community.github.io/mathlib4_docs/find/?pattern=List.range#doc) when the parameter is a numeral.

# A few caveats

The current design of simprocs comes with a few restrictions that are worth keeping in mind:
* By definition, **a simproc can only be used in `simp`** (and tactics that call `simp` under the hood, such as `simp_rw`, `simpa`, `aesop`, `norm_num`, etc...), even though the notion of a "modular lemma" could be useful in other rewriting tactics like `rw`.
* **One cannot provide arguments to a simproc to restrict the occurrences it rewrites**.
  In contrast, this is possible for lemmas in all rewriting tactics: e.g. `rw [add_comm c]` turns `⊢ a + b = c + d` into `⊢ a + b = d + c` where `rw [add_comm]` would instead have turned it into `⊢ b + a = c + d`.
